US08293746B2
Step 25.3: N-(5-Methoxy-3-trifluoromethyl-phenyl)-acetamide
Acetic anhydride (1.22 ml, 12.8 mmol) is added during 10 min to a solution of 5-methoxy-3-trifluoromethyl-aniline (2.29 g, 12.0 mmol) in toluene (10 ml) at a temperature of 25-33° C. After 90 min at RT, hexane (10 ml) is added und the suspension is stirred for 20 min. Filtration, washing with toluene/hexane 2:1 and hexane gives the title compound: mp: 123-124° C.; API-MS: 234 [MH]+; TLC: Rf=0.27 (Hex/EtOAc, 1:1).

reactant | Acetic anhydride | 12.8 mmol, 1.22 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | 5-methoxy-3-trifluoromethyl-aniline | 12.0 mmol, 2.29 g | COC=1C=C(C=C(N)C1)C(F)(F)F | C8H8F3NO
reactant | hexane | 10 ml | CCCCCC | C6H14
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | N-(5-Methoxy-3-trifluoromethyl-phenyl)-acetamide | COC=1C=C(C=C(C1)NC(C)=O)C(F)(F)F | C10H10F3NO2
